US07157464B2
Synthesis of 2-(3-tert-Butyl-5-trifluoromethyl-pyrazol-1-yl)-1-[4-(4-fluoro-phenyl)-piperazin-1-yl]-ethanone
Protocol T was followed using 5-tert-Butyl-3-trifluoromethyl-1H-pyrazole, K2CO3, 2-Chloro-1-[4-(4-fluoro-phenyl)-piperazin-1-yl]-ethanone and DMF. Column chromatography using a solvent mixture (hexane/ethyl acetate=1/1) afforded the title compound as a colorless oil. 1H NMR (400 MHz, CDCl3); 6.92–7.08 (t, 2H), 6.82–6.88 (dd, 2H), 6.52 (s, 1H), 5.08 (s, 2H), 3.70–3.80 (m, 2H), 3.58–3.68 (m, 2H), 3.05–3.15 (m, 4H), 1.3 (s, 9H). 13C NMR (400 MHz, CDCl3): 164, 161.2, 158.2, 156.4, 147.2, 118.4, 118.2, 115.8, 115.4, 108.2, 54, 50.6, 50.2, 45, 44, 30.

reactant | 5-tert-Butyl-3-trifluoromethyl-1H-pyrazole | C(C)(C)(C)C1=CC(=NN1)C(F)(F)F | C8H11F3N2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-Chloro-1-[4-(4-fluoro-phenyl)-piperazin-1-yl]-ethanone | ClCC(=O)N1CCN(CC1)C1=CC=C(C=C1)F | C12H14ClFN2O
reactant | DMF | CN(C)C=O | C3H7NO
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 2-(3-tert-Butyl-5-trifluoromethyl-pyrazol-1-yl)-1-[4-(4-fluoro-phenyl)-piperazin-1-yl]-ethanone | C(C)(C)(C)C1=NN(C(=C1)C(F)(F)F)CC(=O)N1CCN(CC1)C1=CC=C(C=C1)F | C20H24F4N4O
